US07259175B2
{4-[4-Ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-3-methyl-phenoxy}-acetic acid
To a solution of {4-[4-Ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-3-methyl-phenoxy}-acetic acid ethyl ester (80 mg) in THF (1 mL) is added LiOH (1.0 M, 1.0 mL), after 1 hr, acidified by 5 N HCl and extracted with ethyl, dried over sodium sulfate. Concentration gave the title acid compound (80 mg). MS (ES): 452.03 (M++1), the structure is also confirmed by proton NMR.

reactant | {4-[4-Ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-3-methyl-phenoxy}-acetic acid ethyl ester | 80 mg | C(C)OC(COC1=CC(=C(C=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CC)C)=O | C24H24F3NO4S
reactant | LiOH | 1.0 M, 1.0 mL | [Li+].[OH-]
reactant | HCl | 5 N | Cl | ClH
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | {4-[4-Ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-3-methyl-phenoxy}-acetic acid | 80 mg | C(C)C=1N=C(SC1COC1=C(C=C(OCC(=O)O)C=C1)C)C1=CC=C(C=C1)C(F)(F)F | C22H20F3NO4S
